US07723330B2
Step D: Preparation of 4-(4-fluorophenyl)-3-oxo-3,4-dihydropyrazine-2-carbonitrile:
A mixture of 3-chloro-1-(4-fluorophenyl)pyrazin-2(1H)-one (3.52 g, 15.7 mmol), CuCN (2.81 g, 31.3 mmol) and N-methylpyrrolidone (30 mL) was heated for 5.5 hours at 150° C. while being stirred. The residue was triturated with hot CHCl3 and filtered over charcoal. The filtrate was evaporated and concentrated under reduced pressure. The residue was triturated with CH2Cl2 and the solution was concentrated. The crude was purified by silica gel flash column chromatography (3:1=CH2Cl2:Hexane then CH2Cl2) to afford 0.78 g (23%) of the desired product. LRMS (ESI pos) m/e 215.9 (M+1).

reactant | 3-chloro-1-(4-fluorophenyl)pyrazin-2(1H)-one | 15.7 mmol, 3.52 g | ClC=1C(N(C=CN1)C1=CC=C(C=C1)F)=O | C10H6ClFN2O
reactant | CuCN | 31.3 mmol, 2.81 g | C(#N)[Cu]
solvent | N-methylpyrrolidone | 30 mL | CN1C(CCC1)=O | C5H9NO
product | 4-(4-fluorophenyl)-3-oxo-3,4-dihydropyrazine-2-carbonitrile | 0.78 g, 23% | FC1=CC=C(C=C1)N1C(C(=NC=C1)C#N)=O | C11H6FN3O
